US09340538B2
Step C: (S)-benzyl 4-benzyl-3-methyl-5-oxomorpholine-3-carboxylate
(S)-4-benzyl-3-methyl-5-oxomorpholine-3-carboxylic acid (2.49 g, 10 mmol) was reacted with benzyl bromide (2.05 g, 12 mmol) according to the procedure as described in Example 34, Step A to give the title compound as colorless oil (2.38 g, 70%). The compound was characterized by the following spectroscopic data:

reactant | (S)-4-benzyl-3-methyl-5-oxomorpholine-3-carboxylic acid | 10 mmol, 2.49 g | C(C1=CC=CC=C1)N1[C@@](COCC1=O)(C(=O)O)C | C13H15NO4
reactant | benzyl bromide | 12 mmol, 2.05 g | C(C1=CC=CC=C1)Br | C7H7Br
product | (S)-benzyl 4-benzyl-3-methyl-5-oxomorpholine-3-carboxylate | 2.38 g, 70% | C(C1=CC=CC=C1)N1[C@@](COCC1=O)(C(=O)OCC1=CC=CC=C1)C | C20H21NO4
